US08558002B2
To the mixture of dimethyl 2,2′-thiodiacetate (4.54 g, 25.5 mmol, 1 eq) in water (50 mL) at 0° C. was added sodium (meta)periodate (5.786 g, 1.05 eq) and the resulting reaction mixture was stirred overnight. The mixture was then diluted with brine and extracted with CHCl3 (5×). All organics were combined and dried with anhydrous sodium sulfate. The solution was decanted, concentrated under reduced pressure, and the clear oily residue was subject to column chromatography (EtOAc-Hex 1:5 to 1:1) giving dimethyl 2,2′-sulfinyldiacetate as a clear oil (4.522 g).

reactant | dimethyl 2,2′-thiodiacetate | 25.5 mmol, 4.54 g, 1 eq | S(CC(=O)OC)CC(=O)OC | C6H10O4S
reactant | sodium (meta)periodate | 5.786 g, 1.05 eq | [O-]I(=O)(=O)=O.[Na+]
solvent | water | 50 mL | O | H2O
solvent | brine | [Cl-].[Na+].O
product | dimethyl 2,2′-sulfinyldiacetate | 4.522 g | S(=O)(CC(=O)OC)CC(=O)OC | C6H10O5S
